US08685969B2
11. 4-(3-Amino-2-methylphenyl)-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indole-1-carboxamide
A mixture of benzyl 3-(1-carbamoyl-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indol-4-yl)-2-methylphenylcarbamate (0.226 g, 0.431 mmol) and Pd/C (60 mg, 0.056 mmol) in tetrahydrofuran (12 mL) and methanol (18 mL) was stirred at room temperature under H2, provided with a H2 balloon, for 1.5 hr. The catalyst was removed by suction filtration, and the filtrate was concentrated under vacuum. The residue was dissolved in ethyl acetate (80 mL) and dried over anhydrous MgSO4. Removal of the solvent under vacuum provided the desired product (0.172 g, 0.441 mmol, 102% yield) as a beige solid.

reactant | benzyl 3-(1-carbamoyl-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indol-4-yl)-2-methylphenylcarbamate | 0.431 mmol, 0.226 g | C(N)(=O)C1=NC=C(C2=C1NC1=CC(=CC=C21)OCCOC)C=2C(=C(C=CC2)NC(OCC2=CC=CC=C2)=O)C | C30H28N4O5
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
solvent | methanol | 18 mL | CO | CH4O
catalyst | Pd/C | 0.056 mmol, 60 mg | [Pd] | Pd
product | 4-(3-Amino-2-methylphenyl)-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.441 mmol, 0.172 g, 102% yield | NC=1C(=C(C=CC1)C1=CN=C(C=2NC3=CC(=CC=C3C21)OCCOC)C(=O)N)C | C22H22N4O3
